US09029538B2
(6,7-Dimethoxyquinolin-4-yl)-methyl-(4-nitrophenyl)amine (0.30 g, 0.88 mmol), potassium carbonate (1.3 g, 9.4 mmol) and palladium hydroxide (1.00 g, 7.12 mmol) was hydrogenated in a mixture of ethanol (32 mL, 540 mmol), N,N-dimethylformamide (5 mL, 60 mmol) and methylene chloride (19 mL, 290 mmol) at 40 psi overnight. The mixture was filtered through Celite, and washed with calcium carbonate solution and brine then dried over sodium sulfate and concentrated to yield a crude product. This material was purified by prep. HPLC to yield [N-(6,7-Dimethoxy-quinolin-4-yl)-N-methyl-benzene-1,4-diamine (0.180 g, 66%). LCMS m/z=310 (M+1).

reactant | (6,7-Dimethoxyquinolin-4-yl)-methyl-(4-nitrophenyl)amine | 0.88 mmol, 0.30 g | COC=1C=C2C(=CC=NC2=CC1OC)N(C1=CC=C(C=C1)[N+](=O)[O-])C | C18H17N3O4
reactant | potassium carbonate | 9.4 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 540 mmol, 32 mL | C(C)O | C2H6O
reactant | N,N-dimethylformamide | 60 mmol, 5 mL | CN(C=O)C | C3H7NO
reactant | methylene chloride | 290 mmol, 19 mL | C(Cl)Cl | CH2Cl2
catalyst | palladium hydroxide | 7.12 mmol, 1.00 g | [OH-].[Pd+2].[OH-]
product | N-(6,7-Dimethoxy-quinolin-4-yl)-N-methyl-benzene-1,4-diamine | 0.180 g, 66% | COC=1C=C2C(=CC=NC2=CC1OC)N(C1=CC=C(C=C1)N)C | C18H19N3O2
